US07776910B2
t-Butyldimethylchlorosilane (116.55 mg, 0.773 mmol), TEA (0.1336 mL, 0.975 mmol) and DMAP (9 mg, 0.0736 mmol) were added to a solution of (S)-3-[4-(4-hydroxy-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (297 mg, 0.736 mmol) in DCM (5 mL) under argon atmosphere. The reaction mixture was stirred at room temperature for 3 hours. and then a solution of 10% KHSO4/Na2SO4 was added. The mixture was extracted with DCM, and the combined organic extracts were washed with NaHCO3 (10% aqueous solution), dried over Na2SO4, filtered, and evaporated under reduced pressure. The resulting crude material was purified via flash chromatography (hexane/EtOAc, 783/17) to give 370.6 mg (97% yield) of (S)-3-{4-[4-(tert-butyl-dimethyl-silanyloxy)-benzenesulfonyl]-phenyl}-pyrrolidine-1-carboxylic acid tert-butyl ester as a foam.

reactant | t-Butyldimethylchlorosilane | 0.773 mmol, 116.55 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | (S)-3-[4-(4-hydroxy-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.736 mmol, 297 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O | C21H25NO5S
reactant | KHSO4 Na2SO4 | OS(=O)(=O)[O-].[K+].[O-]S(=O)(=O)[O-].[Na+].[Na+]
catalyst | DMAP | 0.0736 mmol, 9 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-{4-[4-(tert-butyl-dimethyl-silanyloxy)-benzenesulfonyl]-phenyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 370.6 mg, 97% yield | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C27H39NO5SSi
